US04517195
1-amino-2-(2-fluorobenzoyl)-5-methylpyrrole
A rapidly stirred suspension of 2-(2-fluorobenzoyl)-5-methyl-1-phthalimidopyrrole (137 g, 0.39 mol) in 500 ml of 95% ethanol was treated with 230 ml of 40% w/w solution of methylamine and the mixture was further stirred at ambient temperature for 5 hours. The mixture was diluted with 300 ml of H2O and extracted with three 400 ml portions of dichloromethane. The combined extracts were dried (MgSO4), filtered, and evaporated to an oil which was purified by HPLC (silica gel, DCM) to give 71 g (83%) of an oil which solidified upon seeding. A three gram portion of this material was distilled at 120° (0.1 mmHg) to give 2.9 g of solid, m.p. 45°-48°.

reactant | 2-(2-fluorobenzoyl)-5-methyl-1-phthalimidopyrrole | 0.39 mol, 137 g | FC1=C(C(=O)C=2N(C(=CC2)C)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C20H13FN2O3
reactant | methylamine | CN | CH5N
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | H2O | 300 ml | O | H2O
product | 1-amino-2-(2-fluorobenzoyl)-5-methylpyrrole | 71 g, 83% | NN1C(=CC=C1C)C(C1=C(C=CC=C1)F)=O | C12H11FN2O
